US04829099
p-Nitrobenzoyl chloride (390 g. 2.1 mole) and tetraethylene glycol (194 g, 1.0 mole) were dissolved in dry tetrahydrofuran (1 l) and the mixture evaporated under reduced pressure. The resulting thick oil was stirred under high vacuum (0.5 mm) overnight, during which time the mixture solidified. The mixture was slowly heated to 60° C. and maintained at this temperature for 5 hours. On cooling, the product was dissovled in ethyl acetate (2 l), saturated aqueous sodium bicarbonate (2 l) added and the mixture stirred at room temperature for 24 hours. The phases were separated, the organic phase washed with saturated sodium bicarbonate (3×), dried (MgSO4), filtered and the filtrate evaporated to dryness under reduced pressure. The residue was crystallized from ethyl acetate/hexanes to give bis-(4-nitrobenzoyl)-tetraethylene glycol (406 g), m.p. 57.5°-58.5° C., which was homogeneous by TLC.

reactant | p-Nitrobenzoyl chloride | 2.1 mole, 390 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | tetraethylene glycol | 1.0 mole, 194 g | C(COCCOCCOCCO)O | C8H18O5
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | bis-(4-nitrobenzoyl)-tetraethylene glycol | 406 g | [N+](=O)([O-])C1=CC=C(C(=O)C(COCCOCCOCCO)(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)O)C=C1 | C22H24N2O11
